US08466283B2
Step 10: Preparation of N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]pyrimidine-5-carboxamide
7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine (100 mg, 0.22 mol) was dissolved in DMF (5 mL), and pyrimidine-5-carboxylic acid (41 mg, 0.33 mmol) was added. PYBOP (173 mg, 0.33 mmol) and diisopropylethylamine (0.16 mL, 0.89 mmol) were subsequently added, and the mixture was stirred at rt overnight. EtOAc was added, and the precipitate was isolated by vacuum filtration to give the title compound (12 mg, 11%): HPLC MS RT=1.07 min, MH+=466.2; 1H NMR (DMSO-d6+2 drops TFA-d) δ: 9.48 (2H, s), 9.39 (1H, s), 8.05 (1H, d), 7.47 (1H, d), 4.59 (2H, m), 4.35 (2H, br t), 4.26 (2H, m), 4.02 (3H, s), 4.00 (2H, m), 3.67 (2H, br t), 3.52 (2H, m), 3.33 (2H, m), 3.16 (2H, m), 2.27 (2H, m).

reactant | 7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine | 0.22 mol, 100 mg | COC1=C(C=CC=2C=3N(C(=NC12)N)CCN3)OCCCN3CCOCC3 | C18H25N5O3
reactant | pyrimidine-5-carboxylic acid | 0.33 mmol, 41 mg | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | PYBOP | 0.33 mmol, 173 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.89 mmol, 0.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]pyrimidine-5-carboxamide | 12 mg, 11% | COC1=C(C=CC=2C=3N(C(=NC12)NC(=O)C=1C=NC=NC1)CCN3)OCCCN3CCOCC3 | C23H27N7O4
